US04014883
Preparation of 7H-indolo[2,3-c]quinolin-6(5H)-one
A suspension of 114 g. of 3-azido-4-phenylcarbostyril in 2 l. of toluene was heated to reflux until nitrogen evolution ceased (5 hours). On cooling, 7H-indolo[2,3-c]quinolin-6(5H)-one crystallized; 84.7 g. (84 percent), having a melting point of 314°-316° .

reactant | 3-azido-4-phenylcarbostyril | N(=[N+]=[N-])C=1C(NC2=CC=CC=C2C1C1=CC=CC=C1)=O | C15H10N4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 7H-indolo[2,3-c]quinolin-6(5H)-one | C1=C2C3=C(C(NC2=CC=C1)=O)NC=1C=CC=CC13 | C15H10N2O
